US04551460
A solution of 30.0 g of 4-pyridinebutanenitrile in 200 ml of ethanol containing 7.5 ml of triethylamine was hydrogenated over 7.5 g of Raney cobalt at 100° C. and 1200 lbs. hydrogen pressure. The crude product obtained after filtration and concentration, was distilled to give 9.7 g (31%) of 4-pyridinebutanamine, bp 105°-112° C./0.8 mm. A second fraction (15.3 g, bp 112°-122° C.) consisted of a mixture by thin layer chromatography and was redistilled to give 4.74 g (15%) of 4-pyridinebutanamine, bp 95°-98° C./0.15 mm. The product was further characterized as the hydrochloride salt, mp 124°-125° C. (ethanolether).

reactant | 4-pyridinebutanenitrile | 30.0 g | N1=CC=C(C=C1)CCCC#N | C9H10N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | cobalt | [Co] | Co
product | 4-pyridinebutanamine | 9.7 g, 31% | N1=CC=C(C=C1)CCCCN | C9H14N2
